US04943580
To a stirred mixture of 1.12 parts of 3-furancarboxylic acid, 2.02 parts of N,N-diethylethanamine and 195 parts of dichloromethane were added 2.6 parts of 2-chloro-1-methylpyridinium iodide at room temperature. After stirring for 1 hour, 3.3 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-amine were added and stirred overnight at room temperature. The mixture was poured into water and the layers were separated. The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol. The salt was filtered off and dried, yielding 2.19 parts (36.1%) of N-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidinyl]ethyl]-3-furancarboxamide ethanedioate(1:2); mp. 160.7° C. (compound 142).

reactant | 3-furancarboxylic acid | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | [I-].ClC1=[N+](C=CC=C1)C
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-amine | NCCN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CCOCC | C17H28N6O
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidinyl]ethyl]-3-furancarboxamide ethanedioate | 36.1% | C(C(=O)O)(=O)O.C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CCNC(=O)C2=COC=C2 | InChI=1S/C22H30N6O3.C2H2O4/c1-2-30-15-13-28-20-19(4-3-8-23-20)26-22(28)25-18-5-10-27(11-6-18)12-9-24-21(29)17-7-14-31-16-17;3-1(4)2(5)6/h3-4,7-8,14,16,18H,2,5-6,9-13,15H2,1H3,(H,24,29)(H,25,26);(H,3,4)(H,5,6)
